US06451821B1
after dissolving 1.24 g of sodium in 20 cm3 of ethanol, 10.86 cm3 of diethyl acetamidomalonate are added, followed by heating at a temperature in the region of 75° C. After 15 minutes, a solution of 5-chloromethylthiazole in 20 cm3 of ethanol is added, followed by heating for 2 hours at a temperature in the region of 75° C. The reaction medium is evaporated under reduced pressure (1 kPa) at a temperature in the region of 40° C. The residue is chromatographed under an argon pressure of 60 kPa on a column of silica gel (particle size 60-200μ; diameter 6.5 cm; height 40 cm), eluting with a dichloromethane/methanol mixture (99/1 by volume), a dichloromethane/methanol mixture (98/02 by volume) and then a dichloromethane/methanol mixture (95/5 by volume). The fractions containing the expected product are combined and then concentrated under the above conditions. 3.3 g of diethyl 2-acetylamino-2-(5-thiazolylmethyl)malonate are obtained in the form of an orange-colored solid [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 1.18 (t, J=7.5 Hz: 6H); 2.00 (s: 3H); 3.75 (s: 2H); 4.17 (q, J=7.5 Hz: 4H); 7.61 (s: 1H); 8.37 (broad s: 1H); 9.00 (s: 1H)].

reactant | sodium | 1.24 g | [Na] | Na
reactant | 5-chloromethylthiazole | ClCC1=CN=CS1 | C4H4ClNS
reactant | diethyl acetamidomalonate | 10.86 cm3 | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | diethyl 2-acetylamino-2-(5-thiazolylmethyl)malonate | 3.3 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CN=CS1 | C13H18N2O5S
